US07977351B2
3-[7-Chloro-6-(2-morpholin-4-yl-ethylamino)-1-propyl-1H-furo[3,4-c]pyridin-3-ylidene]-5-fluoro-1,3-dihydro-indol-2-one
A solution of 2-morpholin-4-yl-ethylamine (320 mg, 2.45 mmol) in 3 mL of dioxane is treated with 3-(6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one (100 mg, 0.26 mmol) in one portion and the reaction mixture is heated to 100° C. overnight. The reaction mixture is concentrated and the residue is purified by chromatography (silica gel, 5% MeOH/EtOAc). The product containing fractions are concentrated to give the title compound as a yellow solid (29 mg, 24%).

reactant | 2-morpholin-4-yl-ethylamine | 2.45 mmol, 320 mg | N1(CCOCC1)CCN | C6H14N2O
reactant | 3-(6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-5-fluoro-1,3-dihydro-indol-2-one | 0.26 mmol, 100 mg | ClC1=C(C2=C(C=N1)C(OC2CC)=C2C(NC1=CC=C(C=C21)F)=O)Cl | C17H11Cl2FN2O2
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-[7-Chloro-6-(2-morpholin-4-yl-ethylamino)-1-propyl-1H-furo[3,4-c]pyridin-3-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 29 mg, 24% | ClC=1C2=C(C=NC1NCCN1CCOCC1)C(OC2CCC)=C2C(NC1=CC=C(C=C21)F)=O | C24H26ClFN4O3
